data/oMe_Silver.jsonl
{"reaction_id": "NG-008_1-c1ccc(N(=O)=O)cc1_2-c1ccc2ccccc2c1_3-c1ccccc1","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(c1ccc(N(=O)=O)cc1)(=O)(c1ccc2ccccc2c1)","C(c1ccccc1)(=O)OO"],"products_smiles": ["C(c1ccc(N(=O)=O)cc1)(=O)Oc1ccc2ccccc2c1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)(=[OH+])c1ccc2ccccc2c1","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)([OH])(OOC(=O)c1ccccc1)c1ccc2ccccc2c1","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)(=[OH+])Oc1ccc2ccccc2c1","rationale": "A 1,2-shift occurs from the more migratory c1ccc2ccccc2c1 group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)(=O)Oc1ccc2ccccc2c1","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
{"reaction_id": "NR-334_1-c1ccc(OC)cc1_2-c1ccc(F)cc1_3-C1CC1_4-C(c1ccccc1)c1ccccc1","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#Cc1ccc(OC)cc1","OC(c1ccc(F)cc1)(C1CC1)C(c1ccccc1)c1ccccc1"],"products_smiles": ["C(=O)(NC(c1ccc(F)cc1)(C1CC1)C(c1ccccc1)c1ccccc1)c1ccc(OC)cc1"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(c1ccc(F)cc1)(C1CC1)C(c1ccccc1)c1ccccc1","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](c1ccc(F)cc1)(C1CC1)C(c1ccccc1)c1ccccc1","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(c1ccc(F)cc1)(C1CC1)C(c1ccccc1)c1ccccc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(c1ccc(F)cc1)(C1CC1)C(c1ccccc1)c1ccccc1)([OH2+])c1ccc(OC)cc1","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(c1ccc(F)cc1)(C1CC1)C(c1ccccc1)c1ccccc1)(O)c1ccc(OC)cc1","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(c1ccc(F)cc1)(C1CC1)C(c1ccccc1)c1ccccc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
